US05843957
Preparation of N-[1-butyl-4-{3-(3-hydroxypropyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(3-hydroxy-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (10 mg, 0.02 mmol) in methanol (3 ml) were added ammonium formate (5 mg, 0.08 mmol) and 10% palladium-carbon (5 mg), and the mixture was heated under reflux for five hours. After allowed to stand for cooling, the mixture was filtered through a cerite pad, and the filtrate was concentrated. The concentrated residue was diluted with ethyl acetate, and washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, and further purified by thin layer chromatography (hexane:ethyl acetate=5:5) to give the title compound (6 mg, 0.02 mmol).

reactant | N-[1-butyl-4-{3-(3-hydroxy-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.02 mmol, 10 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)C#CCO)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H38N4O3
reactant | ammonium formate | 0.08 mmol, 5 mg | C(=O)[O-].[NH4+]
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium-carbon | 5 mg | [C].[Pd]
product | N-[1-butyl-4-{3-(3-hydroxypropyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.02 mmol, 6 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)CCCO)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H42N4O3
